US07199239B2
Intermediate 30: N-Butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine
To a solution of 2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.32 g, 1.26 mmol) in anhydrous CH2Cl2 (10 mL) under nitrogen at room temperature was added butyraldehyde (0.114 mL, 1.26 mmol), followed 10 min later by sodium triacetoxyborohydride (0.374 g, 1.76 mmol) and acetic acid (72 μL, 1.26 mmol). The resultant mixture was stirred for 22 h at room temperature. The reaction mixture was quenched with sat. NaHCO3 aq. (15 mL), then extracted with CH2Cl2 (2×20 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by SPE (20 g Silica cartridge) eluted with 1:200 EtOAc:cyclohexane afforded the title compound as a colourless oil (221 mg).

reactant | 2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 1.26 mmol, 0.32 g | CC1=C(C=CC=C1N)C1=CC=C(C=C1)C(F)(F)F | C14H12F3N
reactant | butyraldehyde | 1.26 mmol, 0.114 mL | C(CCC)=O | C4H8O
reactant | sodium triacetoxyborohydride | 1.76 mmol, 0.374 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.26 mmol, 72 μL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 221 mg | C(CCC)NC=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3N
